US06949542B2
(2-{3-[3-(2,6-Dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethoxy-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-4-trifluoromethoxy-phenyl)-carbamic acid tert-butyl ester (Example J26) (219 mg, 0.75 mmol) and 3-[3-(2,6-dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K15) (244 mg, 0.75 mmol) according to the general procedure M. Obtained as a light yellow foam (240 mg, 59%).

reactant | (2-amino-4-trifluoromethoxy-phenyl)-carbamic acid tert-butyl ester | 0.75 mmol, 219 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)OC(F)(F)F)N)=O | C12H15F3N2O3
reactant | 3-[3-(2,6-dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.75 mmol, 244 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC(=C1)C)C)=O | C20H23NO3
product | (2-{3-[3-(2,6-Dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethoxy-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)OC(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC(=C1)C)C)=O)=O | C28H28F3N3O5
